### PR TITLE
[Merged by Bors] - feat: Completeness criterion for normed additive groups

### PR DESCRIPTION
**Pull request by dupuisf**
This PR adds a proof that a normed additive group is complete iff every absolutely convergent series converges in the space.

This is Lemma 2.2.1 from the book "Interpolation Spaces" by Bergh and Löfström.

I wasn't too sure where to put `Metric.exists_subseq_summable_dist_of_cauchySeq` -- I would be happy to move it somewhere else.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Completeness.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
...
+  refine Summable.of_nonneg_of_le (fun n => by positivity) ?_ summable_geometric_two
+  exact fun n => le_of_lt <| hf₂ n (f (n+1)) <| hf₁.monotone (Nat.le_add_right n 1)
+
+end Metric
+
+section Normed
+
+variable {E : Type*} [NormedAddCommGroup E]
+
+/-- A normed additive group is complete if an absolutely convergent series converges in the
```
Comment (alreadydone) [inline Mathlib/Analysis/Normed/Group/Completeness.lean:52]:
```suggestion
/-- A normed additive group is complete if any absolutely convergent series converges in the
```

File: Mathlib/Analysis/Normed/Group/Completeness.lean [hunk 2]
```diff
@@ -0,0 +1,83 @@
...
+/-!
+# Completeness of normed groups
+
+This file includes a completeness criterion for normed additive groups in terms of convergent
+series.
+
+## Main results
+
+* `NormedAddCommGroup.completeSpace_of_summable_implies_tendsto`: A normed additive group is
+complete if an absolutely convergent series converges in the space.
```
Comment (alreadydone) [inline Mathlib/Analysis/Normed/Group/Completeness.lean:19]:
```suggestion
complete if any absolutely convergent series converges in the space.
```
(or "every")

File: Mathlib/Analysis/Normed/Group/Completeness.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+    exact sum_range_sub (u ∘ f) n
+  obtain ⟨a, ha⟩ := h v hf₂
+  refine ⟨a + u (f 0), ?_⟩
+  refine tendsto_nhds_of_cauchySeq_of_subseq hu hf₁.tendsto_atTop ?_
+  rw [hv_sum] at ha
+  have h₁ : Tendsto (fun n => u (f n) - u (f 0) + u (f 0)) atTop (𝓝 (a + u (f 0))) := by
+    refine Tendsto.add_const _ ha
+  simpa only [sub_add_cancel] using h₁
+
+/-- In a complete normed additive group, an absolutely convergent series converges in the
```
Comment (alreadydone) [inline Mathlib/Analysis/Normed/Group/Completeness.lean:74]: maybe also "every"

File: Mathlib/Analysis/Normed/Group/Completeness.lean [hunk 4]
```diff
@@ -0,0 +1,81 @@
...
+section Normed
+
+variable {E : Type*} [NormedAddCommGroup E]
+
+/-- A normed additive group is complete if an absolutely convergent series converges in the
+space.  -/
+lemma NormedAddCommGroup.completeSpace_of_summable_implies_tendsto
+    (h : ∀ u : ℕ → E,
+      Summable (‖u ·‖) → ∃ a, Tendsto (fun n => ∑ i in range n, u i) atTop (𝓝 a)) :
+    CompleteSpace E := by
```
Comment (alreadydone) [inline Mathlib/Analysis/Normed/Group/Completeness.lean:57]: It seems common to use `imp` as a shorthand for `implies`. Also, it would be nice to make it iff, and the reverse direction shouldn't be hard.

Comment (dupuisf) [reply Mathlib/Analysis/Normed/Group/Completeness.lean]: The reverse direction is the next lemma, but I also added the iff version at the end.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
